US09085555B2
D. 5-Allyloxy-1-carbamoyl-1H-indole-3-carboxylic acid
5-Allyloxy-3-formyl-indole-1-carboxylic acid amide (530 mg, 2.17 mmol) was dissolved in a mixture of THF (38 mL) and t-butanol (12 mL). 2-methyl-2-butene 2 M solution in THF (40 mL, 80 mmol) was added, followed by a water (9.5 mL) solution of NaClO2 (80%, 2.45 g, 21.7 mmol) and NaH2PO4 (2.08 g, 17.4 mmol). The resulting solution was stirred at RT for 1 h, until consumption of the starting material. HCl 1N (3 mL) was added, and the organic solvents were concentrated. The remaining aqueous layer was filtered and the resulting precipitate was washed with water and Et2O to give the desired compound. TLC, Rf (c-hexane/EtOAc 1:2)=0.08; LC/MS: 261.1 [M+H]+, 259.0 [M−H]−, 216.1 [M−CONH2]−, 519.1 [2M−H]−; tR (HPLC conditions a): 2.8 min.

reactant | 5-Allyloxy-3-formyl-indole-1-carboxylic acid amide | 2.17 mmol, 530 mg | C(C=C)OC=1C=C2C(=CN(C2=CC1)C(=O)N)C=O | C13H12N2O3
reactant | 2-methyl-2-butene | 2 M | CC(C)=CC | C5H10
reactant | NaClO2 | 21.7 mmol, 2.45 g | [O-]Cl=O.[Na+]
reactant | HCl | 1N, 3 mL | Cl | ClH
solvent | THF | 38 mL | C1CCOC1 | C4H8O
solvent | t-butanol | 12 mL | C(C)(C)(C)O | C4H10O
solvent | THF | 80 mmol, 40 mL | C1CCOC1 | C4H8O
solvent | water | 9.5 mL | O | H2O
product | 5-Allyloxy-1-carbamoyl-1H-indole-3-carboxylic acid | C(C=C)OC=1C=C2C(=CN(C2=CC1)C(N)=O)C(=O)O | C13H12N2O4
